US20010014691A1
5-(Phenylmethoxy)-3-pyridylamine
A thick-walled glass pressure tube was charged with copper(II) sulfate pentahydrate (1.96 g, 7.85 mmol), 5-bromo-3-(phenylmethoxy)pyridine (4.00 g, 15.15 mmol) and concentrated aqueous ammonia (29.7%, 14.8 M, 37 mL). The tube was sealed and the dark blue suspension was stirred and heated at ˜180° C. (oil bath temperature) for 24 h. The mixture was allowed to cool to ambient temperature. After further cooling in an ice-water bath, the mixture was concentrated on a rotary evaporator to a small volume (˜20 mL) of a dark-blue solution. The solution was diluted with water (40 mL) and saturated K2CO3 solution (40 mL) and extracted with CHCl3 (4×40 mL). The combined, turbid-brown CHCl3 extracts were washed with saturated NaCl solution (2×100 ml), dried (Na2SO4), filtered and concentrated (rotary evaporator). The resulting dark-brown oil, was briefly dried on the vacuum pump to give a dark-brown solid (2.06 g). The product was purified by column chromatography on silica gel (100 g) eluting with CHCl3-MeOH (3:1 ,v/v). Selected fractions, based on TLC (Rf 0.65) analysis, were combined and concentrated to give a 1.64 g (54.1%) of a tan-brown solid.

reactant | 5-bromo-3-(phenylmethoxy)pyridine | 15.15 mmol, 4.00 g | BrC=1C=C(C=NC1)OCC1=CC=CC=C1 | C12H10BrNO
reactant | ammonia | 14.8 M, 37 mL | N | H3N
catalyst | copper(II) sulfate pentahydrate | 7.85 mmol, 1.96 g | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
product | 5-(Phenylmethoxy)-3-pyridylamine | 2.06 g | C1(=CC=CC=C1)COC=1C=C(C=NC1)N | C12H12N2O
